US04581349
Tetraphthalimido-1,4-benzoquinone
A suspension of chloranil (10.00 g, 0.04 mole) and potassium phthalimide (30.00 g, 0.16 mole) in acetonitrile is refluxed overnight. The deep purple solution is allowed to cool and then filtered, yielding a tan solid. This solid is then boiled in approximately 200 ml of dimethylformamide for ten minutes. The hot DMF suspension is then filtered yielding a white thixotropic solid.

reactant | chloranil | 0.04 mole, 10.00 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | potassium phthalimide | 0.16 mole, 30.00 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | dimethylformamide | approximately 200 ml | CN(C=O)C | C3H7NO
product | Tetraphthalimido-1,4-benzoquinone | C1(C=2C(C(N1C1=C(C(C(=C(C1=O)N1C(C=3C(C1=O)=CC=CC3)=O)N3C(C=1C(C3=O)=CC=CC1)=O)=O)N1C(C=3C(C1=O)=CC=CC3)=O)=O)=CC=CC2)=O | C38H16N4O10
